US08981084B2
1-(5-(Trifluoromethyl)pyridin-2-yl)-1,4-diazepane (60 mg, 0.23 mmol), 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid (68 mg, 0.28 mmol), and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDCl) (89 mg, 0.46 mmol) were dissolved in dichloromethane (3 mL) at room temperature. Diisopropylethylamine (DIEA) (0.085 mL, 0.93 mmol) was then introduced at room temperature and the reaction mixture was stirred at room temperature for 2 h. The reaction mixture was diluted with dichloromethane (60 mL) and washed with water (1×20 mL) and brine (1×20 mL). The organic layer was then dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the crude product. The crude product was then purified on Prep TLC (30% Ethyl Acetate:Hexanes) to give (3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)(4-(5-(trifluoromethyl)pyridin-2-yl)-1,4-diazepan-1-yl)methanone (14 mg, 14% yield). 1H NMR (300 MHz, CDCl3) δ 8.41 (s, 1H), 8.19-8.06 (m, 2H), 7.88 (s, 1H), 7.66-7.44 (m, 2H), 6.55 (bs, 1H), 3.98-3.64 (m, 8H), 1.74 (m, 2H). MS (ESI) m/z: Calculated for C21H17F6N5O2S: 485.13. found: 486.1 (M+H)+.

reactant | 1-(5-(Trifluoromethyl)pyridin-2-yl)-1,4-diazepane | 0.23 mmol, 60 mg | FC(C=1C=CC(=NC1)N1CCNCCC1)(F)F | C11H14F3N3
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | 0.28 mmol, 68 mg | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.46 mmol, 89 mg | Cl.CN(CCCN=C=NCC)C
reactant | Diisopropylethylamine | 0.93 mmol, 0.085 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)(4-(5-(trifluoromethyl)pyridin-2-yl)-1,4-diazepan-1-yl)methanone | 14 mg, 14% yield | FC(C1=NC(=NO1)C=1C=C(C=CC1)C(=O)N1CCN(CCC1)C1=NC=C(C=C1)C(F)(F)F)(F)F | C21H17F6N5O2
